US06875884B1
2(4-Chlorophenyl)ethylamine (1.8 g, 12 mmol) was added to a mixture of N-phenylcarbamoyl-3-bromopropylamine (2.5 g, 9.7 mmol) and potassium carbonate (2.6 g, 19 mmol) in CH3CN (50 ml). The mixture was stirred at 70° C. for 4.5 h, and then filtered. The filtrate was concentrated under vacuum to dryness, and the residue was dissolved with chloroform, washed with water, 1N-HCl and brine. The organic layer was dried over sodium sulfate, filtered, and then concentrated under vacuum to dryness. The residue was chromatographed on silica gel (eluting with 2% methanol/chloroform) to afford N-phenylcarbamoyl-N′-[2-(4- chlorophenyl)ethyl]-1,3- diaminopropane (1.43 g, 45%): MS(ES+) m/e 332 M+; 1H NMR (400 MHz, CD3OD) δ 7.35-7.15 (m, 8H), 6.99 (m, 1H), 3.31 (m, 2H), 3.23 (m, 2H), 3.06 (t, J=7.1 Hz, 2H), 3.00 (m, 2H), 1.89 (m, 2H).

reactant | 2(4-Chlorophenyl)ethylamine | 12 mmol, 1.8 g | ClC1=CC=C(C=C1)CCN | C8H10ClN
reactant | N-phenylcarbamoyl-3-bromopropylamine | 9.7 mmol, 2.5 g | C1(=CC=CC=C1)NC(=O)NCCCBr | C10H13BrN2O
reactant | potassium carbonate | 19 mmol, 2.6 g | C([O-])([O-])=O.[K+].[K+]
solvent | CH3CN | 50 ml | CC#N | C2H3N
product | N-phenylcarbamoyl-N′-[2-(4- chlorophenyl)ethyl]-1,3- diaminopropane | 1.43 g, 45% | C1(=CC=CC=C1)NC(=O)NCCCNCCC1=CC=C(C=C1)Cl | C18H22ClN3O
